US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-3-methylquinoline (250 mg), N-bromosuccinimide (175 mg) and 2,2'-azobis(2,4-dimethyl-4-methoxyvaleronitrile) (23.3 mg) in dichloromethane was refluxed for 2 hours. After cooling, the mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (dichloromethane) to give 5-bromo-8-(2,6-dichlorobenzoylamino)-3-methylquinoline (54.2 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-methylquinoline | 250 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C)C(=CC=C1)Cl | C17H12Cl2N2O
reactant | N-bromosuccinimide | 175 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis(2,4-dimethyl-4-methoxyvaleronitrile) | 23.3 mg | N(=NC(C#N)(CC(C)(C)OC)C)C(C#N)(CC(C)(OC)C)C | C16H28N4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-8-(2,6-dichlorobenzoylamino)-3-methylquinoline | 54.2 mg | BrC1=C2C=C(C=NC2=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C17H11BrCl2N2O
